US07368579B2
To N,N-dimethylformamide (40 ml) solution of (R)-(−)-3-chloro-1,2-propanediol (7 g), under ice-cooling and stirring condition, were added tert-butyldimethylchlorosilane (10.6 g) and imidazole (5.2 g), then stirred at a room temperature overnight. Ice-water (120 ml) was added to the reaction mixture, and extracted with ethyl acetate (50 ml) 3 times, the extracts were combined together and washed with an aqueous solution being saturated with sodium chloride, then dried over anhydrous magnesium sulfate. After being filtrated under a reduced pressure, the filtrate was concentrated, there was obtained (R)-(−)-1-(tert-butyldimethylsilanyloxy)-3-chloropropan-2-ol (13.24 g, yield: 92.4%) as colorless liquid product.

reactant | (R)-(−)-3-chloro-1,2-propanediol | 7 g | ClC[C@@H](CO)O | C3H7ClO2
reactant | tert-butyldimethylchlorosilane | 10.6 g | C(C)(C)(C)[Si](Cl)(C)C | C6H15ClSi
reactant | imidazole | 5.2 g | N1C=NC=C1 | C3H4N2
solvent | N,N-dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
product | (R)-(−)-1-(tert-butyldimethylsilanyloxy)-3-chloropropan-2-ol | 13.24 g, yield: 92.4% | [Si](C)(C)(C(C)(C)C)OC[C@H](CCl)O | C9H21ClO2Si
